US03936470
A mixture of 13.4 parts of 2-bromo-2',4'-dichloroacetophenone, 8.4 parts of α-(hydroxymethyl)benzyl alcohol, 1.15 parts of p-toluenesulfonic acid, 160 parts of benzene and 140 parts of n-butanol is stirred and refluxed for 48 hours with a water-separator. The solvent is removed in vacuo. The residue is purified by column-chromatography over silica gel, using chloroform as eluent. The pure fractions are collected and the eluent is evaporated, yielding 2-(bromomethyl)-2-(2,4-dichlorophenyl)-4-phenyl-1,3-dioxolane as residue.

reactant | 2-bromo-2',4'-dichloroacetophenone | BrCC(=O)C1=C(C=C(C=C1)Cl)Cl | C8H5BrCl2O
reactant | α-(hydroxymethyl)benzyl alcohol | OCC(C1=CC=CC=C1)O | C8H10O2
reactant | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | benzene | C1=CC=CC=C1 | C6H6
solvent | water | O | H2O
solvent | n-butanol | C(CCC)O | C4H10O
product | 2-(bromomethyl)-2-(2,4-dichlorophenyl)-4-phenyl-1,3-dioxolane | BrCC1(OCC(O1)C1=CC=CC=C1)C1=C(C=C(C=C1)Cl)Cl | C16H13BrCl2O2
